US09302991B2
<Step-3>:(R)—N-(1-(2-chloro-4-(2,2,2-trifluoroethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 72% yield (390 mg, clear colorless oil) from 1-(2-chloro-4-(2,2,2-trifluoroethoxy)phenyl)ethanone (390 mg, 1.6 mmol, Step-2) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(2-chloro-4-(2,2,2-trifluoroethoxy)phenyl)ethanone | 1.6 mmol, 390 mg | ClC1=C(C=CC(=C1)OCC(F)(F)F)C(C)=O | C10H8ClF3O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(2-chloro-4-(2,2,2-trifluoroethoxy)phenyl)ethyl)-2-methylpropane-2-sulfinamide | 72% yield | ClC1=C(C=CC(=C1)OCC(F)(F)F)C(C)N[S@](=O)C(C)(C)C | C14H19ClF3NO2S
